US07179830B2
b) 2-Chloro-4-methyl-3-trifluoroacetylaminothiophene
A solution of 3.2 g of N-chlorosuccinimide in 50 ml of glacial acetic acid was added dropwise to a mixture of 5 g of 4-methyl-3-trifluoroacetylaminothiophene in 70 ml of glacial acetic acid, and the mixture was then stirred at room temperature for 30 minutes and at 50° C. for a further hour. The solvent was distilled off, and the residue was admixed with water and adjusted to pH 10 using 2N NaOH. The mixture was extracted using ethyl acetate, and the organic phase was washed with water and dried over sodium sulfate. After the solvent had been distilled off, a dark-colored oily product was obtained and was chromatographically purified on silica gel using an elution mixture of 10 parts by volume of toluene and 2 parts by volume of n-heptane. After the solvent had been distilled off, the product was obtained as a light yellow-colored oil.

reactant | N-chlorosuccinimide | 3.2 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 4-methyl-3-trifluoroacetylaminothiophene | 5 g | CC=1C(=CSC1)NC(C(F)(F)F)=O | C7H6F3NOS
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 70 ml | C(C)(=O)O | C2H4O2
product | 2-Chloro-4-methyl-3-trifluoroacetylaminothiophene | ClC=1SC=C(C1NC(C(F)(F)F)=O)C | C7H5ClF3NOS
